US03966801
A suspension of 100 g of p-(2-chlorophenyl)cinnamic acid in 1 l. of 95% ethanol is hydrogenated at atmospheric pressure using platinum oxide catalyst (1 g). The uptake of hydrogen ceases when approximately 9-10 l. of hydrogen is consumed. The catalyst is then filtered off and the reaction evaporated to dryness to give β-(2'-chloro-4-biphenylyl)propionic acid.

reactant | p-(2-chlorophenyl)cinnamic acid | 100 g | ClC1=C(C=CC=C1)C1=CC=C(C=CC(=O)O)C=C1 | C15H11ClO2
reactant | hydrogen | [H][H] | H2
catalyst | platinum oxide | 1 g | [Pt]=O
solvent | ethanol | C(C)O | C2H6O
product | β-(2'-chloro-4-biphenylyl)propionic acid | ClC1=C(C=CC=C1)C1=CC=C(C=C1)CCC(=O)O | C15H13ClO2
